US08071774B2
c) 7-Methoxy-6′,7′-dihydro-5′H-spiro[chromene-4,8′-imidazo[1,5-a]pyridin]-2(3H)-one
A solution of 1.20 mmol of 4-(3-hydroxypropyl)-4-(1H-imidazol-4-yl)-7-methoxychroman-2-one and 1.44 mmol of N-ethyldiisopropylamine in 10 ml of dichloromethane is admixed dropwise at room temperature with 1.20 mmol of methanesulphonyl chloride and the reaction mixture is subsequently stirred for 3 hours. The conversion to the mesylate intermediate is observed by means of HPLC. The reaction mixture is poured into 10 ml of water and subjected to extraction and the aqueous phase is re-extracted with dichloromethane (2×). The combined organic phases are washed with brine, dried over sodium sulphate and evaporated (bath temperature: 30° C.). The residue is taken up in 10 ml of acetonitrile and heated at boiling on an oil bath for about 20 hours. The reaction mixture is left to cool and then evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 4-(3-hydroxypropyl)-4-(1H-imidazol-4-yl)-7-methoxychroman-2-one | 1.20 mmol | OCCCC1(CC(OC2=CC(=CC=C12)OC)=O)C=1N=CNC1 | C16H18N2O4
reactant | N-ethyldiisopropylamine | 1.44 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 1.20 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 7-Methoxy-6′,7′-dihydro-5′H-spiro[chromene-4,8′-imidazo[1,5-a]pyridin]-2(3H)-one | COC1=CC=C2C(=C1)OC(CC21C=2N(CCC1)C=NC2)=O | C16H16N2O3
